US07238695B2
2-[1(S)-{1,1-Dimethylethoxy)carbonylamino}-2-phenylethyl]-1-(2-oxo-butyl)-4-phenyl-1H-imidazole (60 mg) in a mixture of 10% TFA in DCM was stirred at about 20° C. for about 3 hours and then concentrated under reduced pressure. The resulting intermediate dihydro-imidazo-pyrazine was dissolved in methanol and borohydride supported on resin (AMBERLITE® IRA 400, Aldrich, 2.5 mmol BH4−/g; 4 eq) was added. The pH was maintained at about 5 by addition of drops of TFA. After about 2 hours of stirring at about 20° C., the mixture was filtered and the filtrate concentrated under reduced pressure. The residue was purified by flash chromatography (ethyl acetate/Heptane 7:3; Rf=0.30). The tetrahydro-imidazo-pyrazine was obtained as a single diastereoisomer in 86% yield (38 mg). NMR (1H, 400 MHz, CDCl3) δ: 7.80-7.10 (m, 11H, arom. H), 4.28 (dd, 1H, 3J=10 Hz, 3J=3 Hz, H8), 3.95 (dd, 1H, 2J=11.5 Hz, 3J=3.6 Hz), 3.85 (dd, 1H, 2J=13.6 Hz, 3J=3.0 Hz), 3.60 (t, 1H, 2J=3J=11.5 Hz), 3.85 (dd, 1H, 2J=13.6 Hz, 3J=10. Hz), 2.98 (m, 2H), 1.85 (s, 1H, NH), 1.55 (m, 2H, CH2), 0.95 (t, 3H, CH3). NMR (13C, 100 MHz, CDCl3): 146.3, 140.9, 138.0, 134.4, 129.4, 128.6, 128.5, 126.6, 126.5, 124.8, 113.8, 55.9, 54.4, 50.2, 40.0, 26.6, 10.0.

reactant | 1-(2-oxo-butyl)-4-phenyl-1H-imidazole | 60 mg | O=C(CN1C=NC(=C1)C1=CC=CC=C1)CC | C13H14N2O
solvent | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | C(Cl)Cl | CH2Cl2
product | tetrahydro-imidazo-pyrazine | 86% yield | N1CNC2C1=NC=CN2 | C5H8N4
